US07399759B2
2-(4-Methyl-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (1.15 g, 6.8 mmol), 2-cyano-4-methylpyridine (0.81 g, 6.8 mmol), triethylamine (1.50 ml, 10.8 mmol) and toluene (2.0 ml) was refluxed for 8 hrs. After cooling, the precipitated crystals were collected by filtration and recrystallized from ethanol to give the titled compound (1.11 g, 64%)

reactant | methyl thiosalicylate | 6.8 mmol, 1.15 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-4-methylpyridine | 6.8 mmol, 0.81 g | C(#N)C1=NC=CC(=C1)C | C7H6N2
reactant | triethylamine | 10.8 mmol, 1.50 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methyl-2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.11 g, 64% | CC1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2OS
